US05071844
(2S)-(N-[2-(2-Bromophenylmethylthio)phenyl])aminomethyl-1-(4-methoxyphenethyl)pyrrolidine
Boron trifluoride etherate (1531 g, 1327 ml) was added over ten minutes to a stirred, ice-cooled solution of (2S)-(N-[2-(2-bromophenylmethylthio)phenyl])carbamoyl-1-(4-methoxyphenylacetyl)pyrrolidine (see Preparation 23) (1750 g) and sodium borohydride (306.2 g) in tetrahydrofuran (8.73 L). The mixture was stirred at room temperature for one hour, heated under reflux for two hours, cooled, evaporated under reduced pressure to reduced volume to remove the tetrahydrofuran, quenched by the cautious addition of water and further evaporated under reduced pressure. The residue was treated with 40% aqueous sodium hydroxide solution (5 L) and the mixture was heated under reflux for two hours, cooled to room temperature by the addition of ice, acidified to pH 6-7 with concentrated hydrochloric acid and extracted with dichloromethane. The combined organic extracts were washed with 1M aqueous sodium hydroxide solution followed by water, dried over magnesium sulphate and evaporated under reduced pressure to give the desired compound (1589 g, 96%) as a brown oil which was characterised by 1H-NMR spectroscopy.

reactant | Boron trifluoride etherate | 1327 ml, 1531 g | B(F)(F)F.CCOCC
reactant | (2S)-(N-[2-(2-bromophenylmethylthio)phenyl])carbamoyl-1-(4-methoxyphenylacetyl)pyrrolidine | 1750 g | BrC1=C(C=CC=C1)CSC1=C(C=CC=C1)NC(=O)[C@H]1N(CCC1)C(CC1=CC=C(C=C1)OC)=O | C27H27BrN2O3S
reactant | sodium borohydride | 306.2 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 8.73 L | O1CCCC1 | C4H8O
product | (2S)-(N-[2-(2-Bromophenylmethylthio)phenyl])aminomethyl-1-(4-methoxyphenethyl)pyrrolidine | 1589 g, 96% | BrC1=C(C=CC=C1)CSC1=C(C=CC=C1)NC[C@H]1N(CCC1)CCC1=CC=C(C=C1)OC | C27H31BrN2OS
